US07192973B2
N-[1-(3-[3,4-di-fluorophenyl]-3-hydroxypropyl)-piperidin-4-yl]-N-ethyl-4-methanesulphonylphenylacetamide
A solution of sodium borohydride (7.7 mg) in ethanol (1 ml) was added to a solution of N-[1-(3-[3,4-difluorophenyl]-3-ketopropyl)-piperidin-4-yl]-N-ethyl-4-methanesulphonylphenylacetamide (0.25 g) in ethanol (3.2 ml) at 0° C. under argon and the reaction allowed to warm to room temperature over 20 hours. The reaction was quenched with brine, extracted three times with ether and the combined extracts dried. The filtrate was then concentrated to a clear oil, yield 0.21 g. MS (MH+) 495.

reactant | sodium borohydride | 7.7 mg | [BH4-].[Na+]
reactant | N-[1-(3-[3,4-difluorophenyl]-3-ketopropyl)-piperidin-4-yl]-N-ethyl-4-methanesulphonylphenylacetamide | 0.25 g | FC=1C=C(C=CC1F)C(CCN1CCC(CC1)N(C(CC1=CC=C(C=C1)S(=O)(=O)C)=O)CC)=O | C25H30F2N2O4S
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | ethanol | 3.2 ml | C(C)O | C2H6O
product | N-[1-(3-[3,4-di-fluorophenyl]-3-hydroxypropyl)-piperidin-4-yl]-N-ethyl-4-methanesulphonylphenylacetamide | FC=1C=C(C=CC1F)C(CCN1CCC(CC1)N(C(CC1=CC=C(C=C1)S(=O)(=O)C)=O)CC)O | C25H32F2N2O4S
